US04667032
5-acetoxy-12H-benzo[a]phenothiazine
To a stirred solution of 5-hydroxy-12H-benzo[a]phenothiazine (50 g) in pyridine (115 ml) was added acetic anhydride (48 ml). The reaction was exothermic stirring was continued without cooling for 30 minutes, then the mixture was cooled to 10° C. using an ice bath. The yellow crystalline solid was filtered and washed with ether to afford the title compound (23.4 g). The product was crystallized from ethyl acetate, m.p. 185°-186° C.

reactant | 5-hydroxy-12H-benzo[a]phenothiazine | 50 g | OC1=C2C(=C3NC4=CC=CC=C4SC3=C1)C=CC=C2 | C16H11NOS
reactant | acetic anhydride | 48 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 115 ml | N1=CC=CC=C1 | C5H5N
product | 5-acetoxy-12H-benzo[a]phenothiazine | 23.4 g | C(C)(=O)OC1=C2C(=C3NC4=CC=CC=C4SC3=C1)C=CC=C2 | C18H13NO2S
